US08207181B2
Step 2: (5)-5-(4-Cyclohexyl-phenoxymethyl)-4,5-dihydro-oxazol-2-ylamine
To a vigorously stirred solution of sodium hydrogen cyanamide (0.64 g, 10 mmol) in methanol (10 mL) was added dropwise 2-(4-cyclohexyl-phenoxymethyl)-oxirane (2.32 g, 10 mmol) after which the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated to remove methanol. Anhydrous diethyl ether (50 mL) was added after which the resulting white precipitate was removed by filtration through celite and the filtrate concentrated. The residue was purified by flash chromatography (silica, 7N NH3 in methanol/methylene chloride) to give the title compound.

reactant | sodium hydrogen cyanamide | 10 mmol, 0.64 g | N#CN.[Na]
reactant | 2-(4-cyclohexyl-phenoxymethyl)-oxirane | 10 mmol, 2.32 g | C1(CCCCC1)C1=CC=C(OCC2OC2)C=C1 | C15H20O2
solvent | methanol | 10 mL | CO | CH4O
product | (5)-5-(4-Cyclohexyl-phenoxymethyl)-4,5-dihydro-oxazol-2-ylamine | C1(CCCCC1)C1=CC=C(OC[C@@H]2CN=C(O2)N)C=C1 | C16H22N2O2
